US04636518
(c) 1-[2-[(4-methoxyphenyl)methoxy]-3-[(4-methoxyphenyl)methoxylpropyl]-1H-imidazole
A solution of 1-[2-hydroxy-3-[(4-metoxyphenyl)methoxy]propyl]-1H-imidazole (206 g, 0.79M) in dry tetrahydrofuran (3700 ml) was added dropwise to a stirred slurry of sodium hydride (38 g of a 60% dispersion in oil, 0.95M; prewashed with pentane) in dry tetrahydrofuran (200 ml) at below 5° C. and under a gentle stream of dry nitrogen. The resulting mixture was stirred at room temperature for 1 hour and 4-methoxybenzyl chloride (123.2 g, 0.79M) in dry tetrahydrofuran (100 ml) was added. The resulting mixture was stirred at room temperature, protected from light, for 3 days.

reactant | 1-[2-hydroxy-3-[(4-metoxyphenyl)methoxy]propyl]-1H-imidazole | 0.79M, 206 g | OC(CN1C=NC=C1)COCC1=CC=C(C=C1)OC | C14H18N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | pentane | CCCCC | C5H12
reactant | 4-methoxybenzyl chloride | 0.79M, 123.2 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | tetrahydrofuran | 3700 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-[(4-methoxyphenyl)methoxy]-3-[(4-methoxyphenyl)methoxylpropyl]-1H-imidazole | COC1=CC=C(C=C1)COC1NC=CN1CCCOCC1=CC=C(C=C1)OC | C22H28N2O4
